US04352811
3-{3-(4-[5,6-Dimethoxy-1,2-benzisoxazol-3-yl]piperidyl}-2-methyl indole
A stirred mixture of 5.0 g of 5,6-dimethoxy-3-(4-piperidyl)-1,2-benzisoxazole, 6.78 g of 2-methyl-3-(phenylsulfonylpropyl)indole, 120 ml of dimethylformamide and 15.0 g of anhydrous potassium carbonate was heated to 90° for 6 hrs and overnight at ambient temperature. The mixture was poured into water (300 ml) and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was removed in vacuo to yield a solid. The solid was purified by passing it through a silica gel column (20:1) and eluting it with dichloromethane-methanol (1%). Recrystallization two times from ethanol-water yielded 2.0 g (24%) of product, mp 176°-178°.

reactant | 5,6-dimethoxy-3-(4-piperidyl)-1,2-benzisoxazole | 5.0 g | COC=1C(=CC2=C(C(=NO2)C2CCNCC2)C1)OC | C14H18N2O3
reactant | 2-methyl-3-(phenylsulfonylpropyl)indole | 6.78 g | CC=1NC2=CC=CC=C2C1CCCS(=O)(=O)C1=CC=CC=C1 | C18H19NO2S
reactant | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 15.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 300 ml | O | H2O
product | 3-(4-[5,6-Dimethoxy-1,2-benzisoxazol-3-yl]piperidyl}-2-methyl indole | 2.0 g, 24% | COC=1C(=CC2=C(C(=NO2)C2CCN(CC2)C2=C(NC3=CC=CC=C23)C)C1)OC | C23H25N3O3
